US07192968B2
(1R*,2R*)-N1-[(5-Chloroindol-2-yl)carbonyl]-4-methoxycarbonyl-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine hydrochloride (Stereoisomer A and Stereoisomer B)
(1R*,2R*)-N1-[(5-Chloroindol-2-yl)carbonyl]-4-methoxycarbonyl-1,2-cyclopentanediamine (mixture of stereoisomers) (3.42 g) was dissolved in N,N-dimethylformamide (20 ml), and lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate (3.12 g), 1-hydroxybenzotriazole monohydrate (689 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (4.89 g) were added to stir the mixture overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and a saturated aqueous solution of sodium hydrogencarbonate and dichloromethane were added to the residue to conduct liquid separation. The resultant water layer was extracted with dichloromethane. The resultant organic layers were collected and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by flash column chromatography on silica gel (dichloromethane:methanol=97:3→19:1) to obtain Stereoisomer A (585 mg) and Stereoisomer B (1.31 g). Each stereoisomer was dissolved in methanol, and a 1N ethanol solution of hydrochloric acid was added thereto. After the solvent was distilled off under reduced pressure, ethyl acetate was added to the residue. Precipitate formed was collected by filtration to obtain the title compounds [Stereoisomer A (573 mg) and Stereoisomer B (1.26 g)] as pale yellow solids.

reactant | (1R*,2R*)-N1-[(5-Chloroindol-2-yl)carbonyl]-4-methoxycarbonyl-1,2-cyclopentanediamine | 3.42 g | ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@@H](CC(C1)C(=O)OC)N | C16H18ClN3O3
reactant | lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | 3.12 g | CN1CC2=C(CC1)N=C(S2)C(=O)[O-].[Li+]
reactant | 1-hydroxybenzotriazole monohydrate | 689 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.89 g | Cl.CN(CCCN=C=NCC)C
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | ethanol | 1N | C(C)O | C2H6O
product | (1R*,2R*)-N1-[(5-Chloroindol-2-yl)carbonyl]-4-methoxycarbonyl-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine hydrochloride | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@@H](CC(C1)C(=O)OC)NC(=O)C=1SC=2CN(CCC2N1)C | InChI=1S/C24H26ClN5O4S.ClH/c1-30-6-5-16-20(11-30)35-23(29-16)22(32)28-18-10-13(24(33)34-2)9-17(18)27-21(31)19-8-12-7-14(25)3-4-15(12)26-19;/h3-4,7-8,13,17-18,26H,5-6,9-11H2,1-2H3,(H,27,31)(H,28,32);1H/t13?,17-,18-;/m1./s1
